US07148220B2
A 12 L 3-necked round-bottomed flask was charged with DMF (2L), 5-nitroindazole (200 g, 1.22 mol.) and potassium carbonate (186 g, 1.35 mol). Benzyl bromide (230 g, 1.35 mol) was then added to the stirred suspension at a rate as to maintain the temperature below 40° C. Once the addition was complete the mixture was heated to 75° C. for a further 8 hours, the reaction being monitored by TLC (SiO2, 1:1 ethyl acetate:hexanes). The reaction was then cooled to room temperature, water (2L) added and the resulting slurry stirred at room temperature for 0.5 h. The resulting yellow solids were filtered off and dried at 45° C. and 5 mm Hg vacuum for 48 h. This afforded 424 g of a 1.25:1 mixture of 1- and 2-benzyl-5-nitroindazoles as determined by HPLC analysis (Rt 1-benzyl=14.9 min, Rt 2-benzyl=14.1 min). This material was then split into four approximately 100 g batches and each batch dissolved in acetone (470 mL). Water (156 mL) was then added slowly as a steady stream. After stirring for an additional 1 hour at room temperature the resulting solids were filtered off and vacuum dried. This process afforded a combined total of 126 g (41%) of 1-benzyl-5-nitroindazole, which was 92.1% pure by HPLC analysis, the major contaminant being the 2-benzyl derivative.

reactant | 5-nitroindazole | 1.22 mol, 200 g | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | potassium carbonate | 1.35 mol, 186 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl bromide | 1.35 mol, 230 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-5-nitroindazole | 126 g, 41% | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)[N+](=O)[O-] | C14H11N3O2
